* source PROIECT AMELIA - SCHEMA REALA
R_R28         VO N00584  0.47  
R_R30         VO US  0.1  
R_Rs         0 US  10  
R_R29         N20729 VO  0.47  
R_R26         VO N00177  51  
R_R8         -27V DIF_OUT  3.9k  
R_R10         0 N52525  22k  
R_R11         N06863 +27V  6.8k  
R_R12         0 N08040  22k  
R_R13         N07570 +27V  68  
R_R14         N10076 N08118  2.1k  
R_R16         -27V N11440  33  
R_R17         -27V N11649  510  
R_R18         N12315 VO  6.8k  
R_R19         N096441 N12315  1k  
R_R27         N44774 VO  51  
C_C1         DIF_OUT N10264  10p  
R_R20         0 DIF_IN  47k  
Q_Q3         N06736 N52525 N06863 QBC856A/PLP 
Q_Q1         DIF_OUT DIF_IN N05293 QBC856A/PLP 
Q_Q2         -27V N12315 N05437 QBC856A/PLP 
Q_Q7         N08118 N08040 N07570 QBC856A/PLP 
Q_Q6         N08040 N07570 +27V QBC856A/PLP 
Q_Q4         N10264 N11649 N11440 BC846_1 
Q_Q12         0 DIF_OUT N11649 BC846_1 
Q_Q5         N08118 N10076 N10264 BC846_1 
Q_Q13         DIF_OUT N11440 -27V BC846_1 
Q_Q9         -27V N10264 N44774 BC807_1 
Q_Q8         +27V N08118 N00177 BC817_1 
D_D3         N52525 +27V BZX84C8V2/PLP 
Q_Q14         -27V N44774 N20729 QMJD32CT4G 
Q_Q15         +27V N00177 N00584 QMJD31C 
C_C2         UIN DIF_IN  10u  
X_R7         N05293 N06736 N05437 POT PARAMS: SET=0.5 VALUE=1K
X_R15         N10264 N10076 N10076 POT PARAMS: SET=0.5 VALUE=1K
C_C3         0 N096441  10u  
