* source PROIECT AMELIA - SCHEMA SIMULARE
R_R28         VO N00584  0.47  
R_R30         VO VS  0.1  
R_Rs         0 VS  8  
R_R29         N20729 VO  0.47  
R_R26         VO N00177  51  
V_V1         N00151 0 27Vdc
V_V2         0 N01670 27Vdc
R_R7         N05293 N06736  585  
R_R8         N01670 DIF_OUT  3.9k  
R_R9         N06736 N05437  415  
R_R10         0 N52525  22k  
R_R11         N06863 N00151  6.8k  
R_R12         0 N08040  22k  
R_R13         N07570 N00151  68  
R_R14         N10076 N08118  1.5k  
R_R15         PILOT_OUT N10076  770  
R_R16         N01670 N11440  33  
R_R17         N01670 N11647  510  
R_R18         N12315 VO  15k  
R_R19         N117712 N12315  2k  
R_R27         N44774 VO  51  
C_C1         N11973 PILOT_OUT  10p  
R_R20         0 DIF_IN  47k  
V_Vi         IN 0  AC 1
+SIN 0 2.75V 1k 0 0 0
Q_Q3         N06736 N52525 N06863 QBC856A/PLP 
Q_Q1         DIF_OUT DIF_IN N05293 QBC856A/PLP 
Q_Q2         N01670 N12315 N05437 QBC856A/PLP 
Q_Q7         N08118 N08040 N07570 QBC856A/PLP 
Q_Q6         N08040 N07570 N00151 QBC856A/PLP 
Q_Q4         PILOT_OUT N11647 N11440 BC846_1 
Q_Q12         0 N11973 N11647 BC846_1 
Q_Q5         N08118 N10076 PILOT_OUT BC846_1 
Q_Q13         N11973 N11440 N01670 BC846_1 
Q_Q9         N01670 PILOT_OUT N44774 BC807_1 
Q_Q8         N00151 N08118 N00177 BC817_1 
D_D3         N52525 N00151 BZX84C8V2/PLP 
Q_Q14         N01670 N44774 N20729 Qmjd32ct4g 
Q_Q15         N00151 N00177 N00584 Qmjd31c 
C_C2         IN DIF_IN  10u  
R_R31         DIF_OUT N11973  0.1  
C_C3         0 N117712  10u  
